US05099076
oxidizing the resulting reaction liquid using oxygen without isolating said 2,6-di-t-butyl phenol from the liquid in the presence of KOH or NaOH as an alkaline catalyst to produce 3,3',5,5'-tetra-t-butyl-4,4'-biphenol,

reactant | oxygen | O=O | O2
reactant | 2,6-di-t-butyl phenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | KOH | [OH-].[K+]
reactant | NaOH | [OH-].[Na+]
product | 3,3',5,5'-tetra-t-butyl-4,4'-biphenol | C(C)(C)(C)C=1C=C(C=C(C1C1=C(C=C(C=C1C(C)(C)C)O)C(C)(C)C)C(C)(C)C)O | C28H42O2
